US05221684
1. N-2-[4-(1,1-Dimethylethoxy)phenoxy]ethoxypyrazole
A solution of 12.7 g (0.15 mol) of N-hydroxypyrazole in 20 ml of DMF was added dropwise to a suspension of 4.95 g (1.1 eq.) of NaH (80% dispersion in mineral oil) in 40 ml of DMF at RT, and the mixture was heated at 70° C. for 1 h. A solution of 40.95 g (0.15 mol) of 2-[4-(1,1-dimethylethoxy)phenoxy]ethyl bromide in 100 ml of DMF was added and the mixture was then heated at 125° C. for 15 h. The solvent was then stripped off in a rotary evaporator, the residue was taken up in ethyl acetate, and the solution was washed twice each with 5% strength NaOH solution and water. Drying and removal of the solvent under reduced pressured resulted in 38.4 g (93%) of the required compound as a pale oil which was employed without further purification in the next stage.

reactant | N-hydroxypyrazole | 0.15 mol, 12.7 g | ON1N=CC=C1 | C3H4N2O
reactant | NaH | 4.95 g, 1.1 eq. | [H-].[Na+]
reactant | 2-[4-(1,1-dimethylethoxy)phenoxy]ethyl bromide | 0.15 mol, 40.95 g | CC(C)(OC1=CC=C(OCCBr)C=C1)C | C12H17BrO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-2-[4-(1,1-Dimethylethoxy)phenoxy]ethoxypyrazole | 38.4 g, 93% | CC(C)(OC1=CC=C(OCCON2N=CC=C2)C=C1)C | C15H20N2O3
